* PSpice Model Editor - Version 16.2.0
*$
* CSD16401Q5
***********************************************************************
*  (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD16401Q5
* Date: 05/15/2016
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS200B –AUGUST 2009–REVISED SEPTEMBER 2015
* Model Version: Final 1.00
*
*
**********************************************************************
**********************************************************************
*                                                                    *
* CSD16401Q5   -  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT CSD16401Q5  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  pWidth  4.8236088 	; m, total gate width
 .PARAM  perim   {2*pWidth}	; m, gate/drain perim (rough est)
 .PARAM  ptrc1   3.00E-3		; temp co of ext Rd / Rs
 .PARAM  ptrc2   2.00E-5
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pWidth} L=0.5u  PS={perim} PD={perim}
M2   12 11 12 20  PMOSd W={pWidth} L=0.095u PS={perim} PD={perim}

DBD   8  7	 DBD
DDx  20  10  DDx
DDG  14  5	 DD
DGD  14 10	 DD

CBD0  8  7   98e-12
CGD0  5  7	 1E-12
CGS0  5  8	 6e-12
CGS   5 13	 650e-12

RBD0  8  7   	 1e10
RGS  13  8	 1e6
RGG   5 11	 1.60
RSB  12  9	 RTEMP 0.005e-3
RSS   9  8 	 RTEMP 0.005e-3
RSP   8  6 	 0.001E-3
RSA   6  3   2.0
RDD   7 10 	 RTEMP 0.68e-3
RDP   4  7	 0.15e-3

LGG   2  5	 0.78e-9
LSS   6  3	 0.14E-9
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.056e-6      CAPMOD = 2
+ TOX    = 3.00e-8       NCH    = 1.40e17      NSUB   = 1.0e16
+ AGS    = 0.0           PVAG   = 0.1           VSAT   = 9.5e4
+ A0     = 1.0           A1     = 0.0           A2     = 1.0
+ UA     = 2.30e-9       UB     = 2.5e-18       VBM    = -5
+ UA1    = 0.7e-9        UB1    = -3.0e-18      UTE    = -1.50
+ KT1    = -0.75         KT2    = 0.022         KT1L   = 1.0e-10
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.050         ETAB   = -0.07         XJ     = 3e-7
+ PDIBLC1= 0.020         PDIBLC2= 0.004         NLX    = 1.79e-7
+ PSCBE1 = 5.0e8         PSCBE2 = 1e-7          PCLM   = 5.0
+ VOFF   = -0.44         NFACTOR= 1.6           JS     = 0
+ DROUT  = 0.90          DSUB   = 1.4           DELTA  = 0.018
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 240e-12       CGDO   = 8e-12         CGBO   = 1e-12  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6e-14
+ TOX    = 1.75e-8       NSUB   = 2.2e18		gamma	 = 0.5
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
*******************************************************************
.MODEL DBD D (CJO=7565e-12 VJ=0.70 M=0.4115 FC=0.5 TT=5E-09
+ IS=6.65e-12 N=1.022 RS=5.0e-4 TRS1=-3.0e-4 XTI=2.5 BV=27)
.MODEL DD D (CJO=850E-12 VJ=0.69 M=0.66 FC=0.5 IS=1e-25)
.MODEL DDx D (CJO=0.1e-09 VJ=0.40 M=0.60 IS=1e-12 RS=1  TNOM=27)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD16401Q5  
*$